US07205301B2
4,5-Dichloro-2-{4-[2-(3-chloro-phenylamino)-pyrimidin-4-yl]-pyridin-2-yl}-2H-pyridazin-3-one
To a suspension of (3-Chloro-phenyl)-[4-(2-hydrazino-pyridin-4-yl)-pyrimidin-2-yl]-amine (5 g) in acetic acid (80 mL) was added 2.8 g of Mucochloric acid. The mixture was heated at 125° C. for 4 h. The solvent was concentrated and the crude was poured into water (500 mL). The suspension was neutralised by addition of solid potassium carbonate until pH 7. The aqueous phase was extracted with ethyl acetate (3×200 mL). The organic phases were combined, dried over MgSO4, and concentrated. Flash silica chromatography, eluting with ethyl acetate-tetrahydrofuran (1-0 to 1-1), afforded the title compound as a solid (3.11 g, 44%). Mp 238–240° C., 1H NMR (DMSO-d6) 10.3 (1H, s, NH), 8.84 (1H, d, 5 Hz), 8.76 (1H, d, 5 Hz), 8.42 (1H, s), 8.38 (1H, s), 8.28 (1H, 2 Hz, 5 Hz), 8.04 (1H, t, 2 Hz), 7.74 (1H, dd), 7.62 (1H, d, 5 Hz), 7.32 (1H, t, 8 Hz), 7.02 (1H, dd, 2 Hz, 8 Hz). 13CNMR DMSO-d6) 160.3, 160.2, 159.9, 155.5, 153.5, 150.2, 146.6, 141.7, 136.7, 136.6, 134.0, 132.9, 130.1, 121.9, 121.1, 118.7, 118.2, 117.3, 109.3.

reactant | (3-Chloro-phenyl)-[4-(2-hydrazino-pyridin-4-yl)-pyrimidin-2-yl]-amine | 5 g | ClC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)NN | C15H13ClN6
reactant | Mucochloric acid | 2.8 g | C(/C(/Cl)=C(/Cl)\C=O)(=O)O | C4H2Cl2O3
solvent | acetic acid | 80 mL | C(C)(=O)O | C2H4O2
product | 4,5-Dichloro-2-{4-[2-(3-chloro-phenylamino)-pyrimidin-4-yl]-pyridin-2-yl}-2H-pyridazin-3-one | 3.11 g, 44% | ClC=1C(N(N=CC1Cl)C1=NC=CC(=C1)C1=NC(=NC=C1)NC1=CC(=CC=C1)Cl)=O | C19H11Cl3N6O
